### PR TITLE
Dedekind finiteness of various notions of finite type

### LINKED ISSUE #748: Define the predicate that `f` maps two different elements to the same value
The following remains to be defined in `univalent-combinatorics.repetitions-of-values`:
- [ ] The predicate that `f` maps two different elements to the same value

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Defines
- Subfinite types
- Subfinitely indexed types
- Dedekind finite types
- dual Dedekind finite types
- Noninjective maps (maps for which there exists a repetition of values)

Proves
- Subfinite types are Dedekind finite
- Subfinitely indexed types are Dedekind finite
- Dedekind finite types validate the Cantor–Schröder–Bernstein theorem constructively
- finite choice under the double negation modality
- factor property of connected maps

+lost of small refactoring work

Resolves #748

### CODE REVIEW

File: src/foundation/noninjective-maps.lagda.md [hunk 1]
```diff
@@ -0,0 +1,147 @@
...
+```agda
+module _
+  {l1 l2 l3 : Level}
+  {A : UU l1} {B : UU l2} {C : UU l3}
+  {f : A → B} {g : B → C}
+  where
+
+  ap-repetition-of-values :
+    repetition-of-values f → repetition-of-values (g ∘ f)
+  ap-repetition-of-values (q , p) = (q , ap g p)
```
Comment (VojtechStep) [inline src/foundation/noninjective-maps.lagda.md]: Do you want this and `inv-...` here when they already exist as `repetition-of-values-comp` and `repetition-of-values-right-factor'`?

File: src/foundation/projective-types.lagda.md [hunk 2]
```diff
@@ -24,57 +25,83 @@ open import foundation-core.truncated-types
...
+is an [equivalence](foundation-core.equivalences.md). The latter map is always
+an [embedding](foundation-core.embeddings.md), and it is an equivalence for
+every `X`, `A`, and `R` if and only if
+[the axiom of choice](foundation.axiom-of-choice.md) holds.
 
-The notion of set-projectiveness generalizes to `n`-projectiveness, for `n : ℕ`.
-A type `X` is said to be `k`-projective if the postcomposition function
-`(X → A) → (X → B)` is surjective for every `k-1`-connected map `f : A → B` into
-a `k`-truncated type `B`.
+The notion of set-projectiveness generalizes to
```
Comment (VojtechStep) [inline src/foundation/projective-types.lagda.md:50]: Since this isn't your prose feel free to ignore this, but it feels a little confusing to be mixing `n`, `k`, natural numbers and truncation levels

File: src/foundation/projective-types.lagda.md [hunk 3]
```diff
@@ -24,57 +25,83 @@ open import foundation-core.truncated-types
...
       ( truncation-level-minus-one-ℕ k)
       ( A)
       ( type-Truncated-Type B)) →
   is-surjective (postcomp X (map-connected-map f))
+
+is-trunc-projective : {l1 : Level} → ℕ → UU l1 → UUω
+is-trunc-projective k X = {l2 l3 : Level} → is-trunc-projective-Level l2 l3 k X
+```
+
+### Alternative statement of projectivity
```
Comment (VojtechStep) [inline src/foundation/projective-types.lagda.md]: This file defines set projectivity and n-projectivity, while this is just "projectivity", and it's not one of the concepts discussed in the Idea section. Would you mind clearing that up?

File: src/foundation/repetitions-of-values.lagda.md [hunk 4]
```diff
@@ -150,17 +180,24 @@ module _
...
+      ( map-equiv-repetition-of-values)
+      ( map-inv-equiv-repetition-of-values)
   is-retraction-map-inv-equiv-repetition-of-values =
     is-retraction-map-inv-equiv equiv-repetition-of-values
 ```
 
-### Embeddings of repetitions values
+### Embeddings of repetitions of values
+
+Given an embedding of arrows `f ↪ g`, then the type of repetitions of values of
```
Comment (VojtechStep) [inline src/foundation/repetitions-of-values.lagda.md]: "Embedding of arrows" isn't clearly defined, could you add a diagram?

File: src/set-theory.lagda.md [hunk 5]
```diff
@@ -28,7 +28,7 @@ this sense. Indeed, that `is-small l` is a predicate is equivalent to the
 connection between set theory and univalent type theory that is not directly
 compatible with the preconception that "set theory is a study of set-level
 mathematics". Namely, the universe of sets need not itself be a set-level
-structure. In fact, with univalence it is a
+structure. In fact, with univalence it is a proper
```
Comment (VojtechStep) [inline src/set-theory.lagda.md:31]: "proper k-types" are not defined anywhere in the library, not even informally if I'm looking correctly

File: src/univalent-combinatorics/dedekind-finite-types.lagda.md [hunk 6]
```diff
@@ -0,0 +1,167 @@
...
+
+## References
+
+{{#bibliography}} {{#reference Sto87}}
+
+## External links
+
+- [`Fin.Dedekind`](https://www.cs.bham.ac.uk/~mhe/TypeTopology/Fin.Dedekind.html)
+  at TypeTopology
+- [finite object#Dedekind finiteness](https://ncatlab.org/nlab/show/finite+object#dedekind_finiteness)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/dedekind-finite-types.lagda.md:164]:
```suggestion
- [finite object#Dedekind finiteness](https://ncatlab.org/nlab/show/finite+object#dedekind_finiteness) at $n$Lab
```

File: src/univalent-combinatorics/dual-dedekind-finite-types.lagda.md [hunk 7]
```diff
@@ -0,0 +1,154 @@
...
+open import foundation.universe-levels
+
+open import synthetic-homotopy-theory.acyclic-maps
+```
+
+</details>
+
+## Idea
+
+{{#concept "Dual Dedekind finite types"  Agda=is-dual-dedekind-finite Agda=Dual-Dedekind-Finite-Type}}
```
Comment (VojtechStep) [inline src/univalent-combinatorics/dual-dedekind-finite-types.lagda.md]:
```suggestion
{{#concept "Dual Dedekind finite types" Agda=is-dual-dedekind-finite Agda=Dual-Dedekind-Finite-Type}}
```

File: src/foundation/axiom-of-choice.lagda.md [hunk 8]
```diff
@@ -112,6 +112,14 @@ AC0-is-set-projective H A B K =
         ( id))
 ```
 
+## Comments
+
+The axiom of choice fails to hold for arbitrary types. Indeed, it already fails
+to hold for the 0-connected 1-type $\operatorname{B}ℤ₂$ as demonstrated in
+Corollary 17.5.3 of {{#cite Rij22}}. Hence it is both incompatible with
+univalence and with the existence of higher inductive types to assume the axiom
+of choice for all types.
```
Comment (VojtechStep) [inline src/foundation/axiom-of-choice.lagda.md]: If you're adding this comment, you may want to also add a pointer to `foundation.global-choice`

File: src/univalent-combinatorics/dedekind-finite-types.lagda.md [hunk 9]
```diff
@@ -0,0 +1,167 @@
...
+
+```agda
+module _
+  {l1 l2 : Level}
+  (X : Dedekind-Finite-Type l1) (Y : Dedekind-Finite-Type l2)
+  (f : type-Dedekind-Finite-Type X ↪ type-Dedekind-Finite-Type Y)
+  (g : type-Dedekind-Finite-Type Y ↪ type-Dedekind-Finite-Type X)
+  where
+
+  is-equiv-map-cantor-schröder-bernstein-Dedekind-Finite-Type :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/dedekind-finite-types.lagda.md]: A priori I wouldn't use "ö" in a function name, but if you want to write the names orthographically, then it'd be better to also capitalize them properly. This applies to all the occurences

File: src/univalent-combinatorics/pigeonhole-principle.lagda.md [hunk 10]
```diff
@@ -301,35 +312,34 @@ module _
...
-    P : Prop lzero
-    P = leq-ℕ-Prop
-        ( number-of-elements-is-finite H)
-          ( number-of-elements-is-finite K)
+    let
+    open
+      do-syntax-trunc-Prop
+        ( leq-ℕ-Prop
+          ( number-of-elements-is-finite H)
+          ( number-of-elements-is-finite K))
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pigeonhole-principle.lagda.md]:
```suggestion
    let
      open
        do-syntax-trunc-Prop
          ( leq-ℕ-Prop
            ( number-of-elements-is-finite H)
            ( number-of-elements-is-finite K))
```
the convention thus far has been to indent the bindings in a `let` expression

File: src/univalent-combinatorics/pigeonhole-principle.lagda.md [hunk 11]
```diff
@@ -301,35 +312,34 @@ module _
...
+    in do
+    eA ← H
+    eB ← K
+    concatenate-eq-leq-eq-ℕ
+      ( inv (compute-number-of-elements-is-finite eA H))
+      ( leq-emb-count eA eB f)
+      ( compute-number-of-elements-is-finite eB K)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pigeonhole-principle.lagda.md]:
```suggestion
      eA ← H
      eB ← K
      concatenate-eq-leq-eq-ℕ
        ( inv (compute-number-of-elements-is-finite eA H))
        ( leq-emb-count eA eB f)
        ( compute-number-of-elements-is-finite eB K)
```

File: src/univalent-combinatorics/pigeonhole-principle.lagda.md [hunk 12]
```diff
@@ -339,26 +349,27 @@ module _
...
+    let open do-syntax-trunc-Prop empty-Prop
+    in do
+    e ← H
+    d ← K
+    is-not-emb-le-count e d f
+      ( concatenate-eq-le-eq-ℕ
+        ( compute-number-of-elements-is-finite d K)
+        ( p)
+        ( inv (compute-number-of-elements-is-finite e H)))
+      ( E)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pigeonhole-principle.lagda.md]:
```suggestion
      e ← H
      d ← K
      is-not-emb-le-count e d f
        ( concatenate-eq-le-eq-ℕ
          ( compute-number-of-elements-is-finite d K)
          ( p)
          ( inv (compute-number-of-elements-is-finite e H)))
        ( E)
```

File: src/univalent-combinatorics/repetitions-of-values.lagda.md [hunk 13]
```diff
@@ -31,15 +37,16 @@ open import univalent-combinatorics.standard-finite-types
 
 ## Idea
 
-A **repetition of values** of a function `f : A → B` consists of a pair
-`a a' : A` such that `a ≠ a'` and `f a ＝ f a'`.
+A {{#concept "repetition of values" Disambiguation="of a map of types"}} of a
```
Comment (VojtechStep) [inline src/univalent-combinatorics/repetitions-of-values.lagda.md]: This file doesn't define the concept though

File: src/univalent-combinatorics/repetitions-of-values.lagda.md [hunk 14]
```diff
@@ -83,80 +90,45 @@ repetition-of-values-is-not-injective-Fin k l f N =
...
+      ( λ y → neg-Decidable-Prop (decidable-Eq-Fin k x y)))
+    ( λ (y , p) → has-decidable-equality-Fin l (f x) (f y))
 ```
 
-### The predicate that `f` maps two different elements to the same value
-
-This remains to be defined.
-[#748](https://github.com/UniMath/agda-unimath/issues/748)
-
 ### On the standard finite sets, `has-repetition-of-values f` is decidable
```
Comment (VojtechStep) [inline src/univalent-combinatorics/repetitions-of-values.lagda.md]:
```suggestion
### On the standard finite sets, `repetition-of-values f` is decidable
```

File: src/univalent-combinatorics/repetitions-of-values.lagda.md [hunk 15]
```diff
@@ -83,80 +90,45 @@ repetition-of-values-is-not-injective-Fin k l f N =
...
 
-```text
+```agda
 is-decidable-has-repetition-of-values-Fin :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/repetitions-of-values.lagda.md]:
```suggestion
is-decidable-repetition-of-values-Fin :
```

File: src/univalent-combinatorics/repetitions-of-values.lagda.md [hunk 16]
```diff
@@ -83,80 +90,45 @@ repetition-of-values-is-not-injective-Fin k l f N =
...
-  (k l : ℕ) (f : Fin k → Fin l) → is-decidable (has-repetition-of-values f)
+  (k l : ℕ) (f : Fin k → Fin l) → is-decidable (repetition-of-values f)
 is-decidable-has-repetition-of-values-Fin k l f =
```
Comment (VojtechStep) [inline src/univalent-combinatorics/repetitions-of-values.lagda.md]:
```suggestion
is-decidable-repetition-of-values-Fin k l f =
```

File: src/univalent-combinatorics/subfinitely-indexed-types.lagda.md [hunk 17]
```diff
@@ -0,0 +1,158 @@
...
+open import univalent-combinatorics.subfinite-indexing
+open import univalent-combinatorics.subfinite-types
+```
+
+</details>
+
+## Idea
+
+A type `X` is
+{{#concept "subfinitely indexed" agda=is-subfinitely-indexed agda=Subfinitely-Indexed-Type}},
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinitely-indexed-types.lagda.md]:
```suggestion
{{#concept "subfinitely indexed" Agda=is-subfinitely-indexed Agda=Subfinitely-Indexed-Type}},
```

File: src/univalent-combinatorics/subfinitely-indexed-types.lagda.md [hunk 18]
```diff
@@ -0,0 +1,158 @@
+# Subfinitely indexed types
+
+```agda
+module univalent-combinatorics.subfinitely-indexed-types where
+```
+
+<details><summary>Imports</summary>
+
+```agda
+open import elementary-number-theory.natural-numbers
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinitely-indexed-types.lagda.md]: I don't think this file actually uses the natural numbers

File: src/univalent-combinatorics/subfinite-types.lagda.md [hunk 19]
```diff
@@ -0,0 +1,298 @@
...
+we in particular have $fⁱ(x) = fʲ(x)$ . By injectivity of $f$ we can cancel $i$
+applications on both sides of the equation to obtain $x = f(f^{j-i-1}(x))$, and
+so $f^{j-i-1}(x)$ is our desired preimage of $x$. ∎
+
+```agda
+module _
+  {l : Level} {X : UU l}
+  where
+
+  eq-value-min-max-eq-value-sequence :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-types.lagda.md]: These two definitions are begging to be put in a less specialized file (like one with fewer imports), but I can't think of one, so if you can't come up with a better place for it, feel free to just resolve this

File: src/univalent-combinatorics/subfinite-types.lagda.md [hunk 20]
```diff
@@ -0,0 +1,298 @@
...
+    compute-iterate-f-x : iterate i f x ＝ iterate j f x
+    compute-iterate-f-x =
+      is-injective-map-subcount c
+        ( is-repetition-of-values-repetition-of-values y r)
+
+    compute-iterate-min-max-f-x :
+      iterate (max-ℕ i j) f x ＝ iterate (min-ℕ i j) f x
+    compute-iterate-min-max-f-x =
+      eq-value-min-max-eq-value-sequence
+        (λ u → iterate u f x)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-types.lagda.md]:
```suggestion
        ( λ u → iterate u f x)
```

File: src/univalent-combinatorics/subfinite-types.lagda.md [hunk 21]
```diff
@@ -0,0 +1,298 @@
...
+
+  is-dedekind-finite-subcount' :
+    (f : X → X) → is-injective f → is-equiv f
+  is-dedekind-finite-subcount' f is-injective-f =
+    is-equiv-is-split-surjective-is-injective f
+      ( is-injective-f)
+      ( is-split-surjective-is-injective-endo-subcount f is-injective-f)
+
+  is-dedekind-finite-subcount :
+    (f : X → X) → is-emb f → is-equiv f
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-types.lagda.md]: This can be just
```suggestion
    is-dedekind-finite X
```
right?

File: src/univalent-combinatorics/subcounting.lagda.md [hunk 22]
```diff
@@ -0,0 +1,149 @@
...
+  is-injective-map-subcount = is-injective-emb emb-subcount
+
+  is-set-has-subcount : is-set X
+  is-set-has-subcount =
+    is-set-emb emb-subcount (is-set-Fin bound-number-of-elements-subcount)
+
+  has-decidable-equality-has-subcount : has-decidable-equality X
+  has-decidable-equality-has-subcount =
+    has-decidable-equality-emb emb-subcount
+      ( has-decidable-equality-Fin bound-number-of-elements-subcount)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subcounting.lagda.md]: I'd put these under "Properties", the same way it's done in subfinite types

File: src/univalent-combinatorics/subcounting.lagda.md [hunk 23]
```diff
@@ -0,0 +1,149 @@
...
+
+### Types equipped with subcountings are closed under subtypes
+
+```agda
+module _
+  {l1 l2 : Level} {X : UU l1} {Y : UU l2}
+  where
+
+  abstract
+    emb-subcount-emb :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subcounting.lagda.md]: Why is this abstract?

File: src/univalent-combinatorics/subfinite-indexing.lagda.md [hunk 24]
```diff
@@ -0,0 +1,442 @@
...
+```
+
+</details>
+
+## Idea
+
+A {{#concept "subfinite indexing" Agda=subfinite-indexing}} of a type `X` is the
+data of a type `D` [equipped](foundation.structure.md) with a
+[subcounting](univalent-combinatorics.subcounting.md) `D ↪ Fin n` and a
+[surjection](foundation.surjective-maps.md) `D ↠ X`.
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-indexing.lagda.md:50]: Wouldn't it make the formalization of subfinitely indexed types a little easier, and the prose a little clearer, if subfinite indexings were formalized as "a subfinite type which projects onto `X`"? I.e. associate the products to the left instead of to the right?

File: src/univalent-combinatorics/subfinite-indexing.lagda.md [hunk 25]
```diff
@@ -0,0 +1,442 @@
...
+    is-emb map-emb-subfinite-indexing
+  is-emb-map-emb-subfinite-indexing =
+    is-emb-map-subcount subcount-indexing-type-subfinite-indexing
+
+  is-injective-map-emb-subfinite-indexing :
+    is-injective map-emb-subfinite-indexing
+  is-injective-map-emb-subfinite-indexing =
+    is-injective-map-subcount subcount-indexing-type-subfinite-indexing
+
+  projection-subfinite-indexing :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-indexing.lagda.md]: Why switch to "projection" from "surjection"?

File: src/univalent-combinatorics/subfinite-types.lagda.md [hunk 26]
```diff
@@ -0,0 +1,298 @@
...
+sequence of elements of $X$. Since the
+[standard pigeonhole principle](univalent-combinatorics.pigeonhole-principle.md)
+applies to $\operatorname{Fin}n$ there has to be $i < j$ in
+$\operatorname{Fin}n$ such that $ι(fⁱ(x)) = ι(fʲ(x))$. Since $ι$ is an embedding
+we in particular have $fⁱ(x) = fʲ(x)$ . By injectivity of $f$ we can cancel $i$
+applications on both sides of the equation to obtain $x = f(f^{j-i-1}(x))$, and
+so $f^{j-i-1}(x)$ is our desired preimage of $x$. ∎
+
+```agda
+module _
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-types.lagda.md:133]: This module only references subcounting, shouldn't it go into the `subcounting` file then?

File: src/univalent-combinatorics/subfinite-indexing.lagda.md [hunk 27]
```diff
@@ -0,0 +1,442 @@
...
+cancel $i$ applications to obtain $x = f(f^{j-i-1}(x))$, and so $f^{j-i-1}(x)$
+is the desired preimage. ∎
+
+```agda
+module _
+  {l1 l2 : Level} {X : UU l1} (c : subfinite-indexing l2 X)
+  where
+
+  abstract
+    lemma-is-surjective-is-injective-endo-subfinite-indexing :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-indexing.lagda.md]: I don't have a better name for this, but in the current state I'd suggest moving this into the `where` block of `is-surjective-is-injective-endo-subfinite-indexing`. If someone wants to reuse it, they will probably think of a better name

File: src/univalent-combinatorics/subfinite-indexing.lagda.md [hunk 28]
```diff
@@ -0,0 +1,442 @@
...
+            is-surjective-map-projection-subfinite-indexing c
+              ( iterate
+                ( nat-Fin
+                  ( succ-ℕ (bound-number-of-elements-subfinite-indexing c))
+                  ( i))
+                ( f)
+                ( x))))
+
+  is-dedekind-finite-subfinite-indexing :
+    (f : X → X) → is-emb f → is-equiv f
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinite-indexing.lagda.md]:
```suggestion
    is-dedekind-finite X
```

File: src/foundation/cantor-schroder-bernstein-escardo.lagda.md [hunk 29]
```diff
@@ -200,3 +200,14 @@ Cantor-Schröder-Bernstein lem A B f g =
   {{#cite TypeTopology}}
 
 {{#bibliography}}
+
+## See also
+
+The Cantor–Schröder–Bernstein–Escardó theorem holds constructively for many
+notions of finite type, including
+
+- [Finite types](univalent-combinatorics.finite-types.md)
```
Comment (VojtechStep) [inline src/foundation/cantor-schroder-bernstein-escardo.lagda.md]: If I'm looking right, then finite types and Kuratowski finite sets don't have their Cantor–Schröder–Bernstein theorems formalized. Would you mind marking that?

File: src/univalent-combinatorics/subfinite-indexing.lagda.md (hunk 27 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinite-indexing.lagda.md]: fair enough

File: src/univalent-combinatorics/subfinitely-indexed-types.lagda.md (hunk 17 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinitely-indexed-types.lagda.md]: This typo also occurs 8 other places in the library

File: src/univalent-combinatorics/subfinite-types.lagda.md (hunk 19 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinite-types.lagda.md]: Yeah, I felt the same but couldn't think of one. In hindsight there should be a more direct argument that avoids this lemma altogether, but I am not prioritizing rewriting the formalization at the moment.

File: src/univalent-combinatorics/subcounting.lagda.md (hunk 23 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/subcounting.lagda.md]: good question

File: src/univalent-combinatorics/subfinitely-indexed-types.lagda.md (hunk 18 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinitely-indexed-types.lagda.md]: correct

File: src/foundation/projective-types.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/foundation/projective-types.lagda.md]: In the future, we should factor out a file `truncation-projective-types`

File: src/univalent-combinatorics/subfinite-indexing.lagda.md (hunk 24 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinite-indexing.lagda.md:50]: It should perhaps be noted that this file concerns the nonequivalent concept of types equipped with indexings from types equipped with subcountings, and not types equipped with indexings from subfinite types.

Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinite-indexing.lagda.md:50]: Hence the left-associated product would read as follows: "_A subfinite indexing of a type `X` is a type `D` equipped with a subcounting, such that `D` surjects onto `X`._" Do you prefer this?

Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinite-indexing.lagda.md:50]: Or "_A subfinite indexing of a type `X` is a surjection `D ↠ X` from a type `D` equipped with a subcounting._"

Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinite-indexing.lagda.md:50]: I added a note on the difference.

File: src/univalent-combinatorics/kuratowski-finite-sets.lagda.md [hunk 30]
```diff
@@ -77,22 +85,81 @@ is-finite-has-decidable-equality-type-Kuratowski-Finite-Set :
...
+```agda
+module _
+  {l : Level} (X : Kuratowski-Finite-Set l)
+  where
+
+  is-subfinitely-enumerable-type-Kuratowski-Finite-Set :
+    is-subfinitely-enumerable lzero (type-Kuratowski-Finite-Set X)
+  is-subfinitely-enumerable-type-Kuratowski-Finite-Set =
+    map-trunc-Prop
+      (λ (n , s) → (Fin-Subfinite-Type n , s))
```
Comment (VojtechStep) [inline src/univalent-combinatorics/kuratowski-finite-sets.lagda.md]:
```suggestion
      ( λ (n , s) → (Fin-Subfinite-Type n , s))
```

File: src/univalent-combinatorics/subfinite-indexing.lagda.md (hunk 24 above)
Comment (VojtechStep) [reply src/univalent-combinatorics/subfinite-indexing.lagda.md:50]: I think I hadn't realized that there is no name for the proof-relevant "type equipped with a subcount", so the formalization is good as it is 👌. Thanks for the note

File: src/univalent-combinatorics/subfinitely-enumerable-types.lagda.md [hunk 31]
```diff
@@ -0,0 +1,156 @@
...
+is-prop-is-subfinitely-enumerable :
+  {l1 l2 : Level} {X : UU l1} → is-prop (is-subfinitely-enumerable l2 X)
+is-prop-is-subfinitely-enumerable {l2 = l2} {X} =
+  is-prop-type-Prop (is-subfinitely-enumerable-Prop l2 X)
+```
+
+### The subuniverse of subfinitely enumerable types
+
+```agda
+subfinitely-enumerable-Type : (l1 l2 : Level) → UU (lsuc l1 ⊔ lsuc l2)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/subfinitely-enumerable-types.lagda.md]: Honestly I'm still a little wonky on the capitalization conventions, but I'd think this should be `Subfinitely-Enumerable-Type`

**Review by VojtechStep — COMMENTED** [review]
Just two nitpicks and it's good to go 👍

File: src/univalent-combinatorics/subfinitely-enumerable-types.lagda.md (hunk 31 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/subfinitely-enumerable-types.lagda.md]: Oh, this was for sure a mistake introduced through search-and-replace. Thanks for catching it!
